US07091220B2
Dimethyl-[(1-methyl-1H-indol-3-yl)-o-tolyl-methyl]-amine
The preparation was carried out in accordance with general synthesis instructions 4 from 1-methyl-1H-indole and (2-methyl-benzylidene)-dimethylammonium chloride, which had been prepared in accordance with example 44 from 2-methyl-benzaldehyde and dimethylamine.

reactant | 1-methyl-1H-indole | CN1C=CC2=CC=CC=C12 | C9H9N
reactant | (2-methyl-benzylidene)-dimethylammonium chloride | [Cl-].CC1=C(C=[N+](C)C)C=CC=C1
reactant | 2-methyl-benzaldehyde | CC1=C(C=O)C=CC=C1 | C8H8O
reactant | dimethylamine | CNC | C2H7N
product | Dimethyl-[(1-methyl-1H-indol-3-yl)-o-tolyl-methyl]-amine | CN(C(C1=C(C=CC=C1)C)C1=CN(C2=CC=CC=C12)C)C | C19H22N2
